US06001835
Step B: Methyl 3-(4-imidazolyl)propionate
To a solution of methyl 3-(4-imidazolyl)-2-propenoate (5.3 g) in methanol a t room temperature was added 10% palladium on carbon (20 mg) under a blanket of argon. A balloon of hydrogen was applied, and the reaction was stirred for one hour. The solution was filtered, and then concentrated in vacuo to dryness to provide the title compound.

reactant | methyl 3-(4-imidazolyl)-2-propenoate | 5.3 g | N1C=NC(=C1)C=CC(=O)OC | C7H8N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | Methyl 3-(4-imidazolyl)propionate | N1C=NC(=C1)CCC(=O)OC | C7H10N2O2
